US04490369
1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-methoxy-phenyl}-ethyl)-amino]-propane hydrochloride
This compound was prepared analogous to Example 1(b) by reacting 1-(7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane with N-methyl-N-[2-(4-methoxy-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane | COC1=CC2=C(CC(N(C=C2)CCCCl)=O)C=C1OC | C15H18ClNO3
reactant | N-methyl-N-[2-(4-methoxy-phenyl)-ethyl]-amine | CNCCC1=CC=C(C=C1)OC | C10H15NO
product | 1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{4-methoxy-phenyl}-ethyl)-amino]-propane hydrochloride | Cl.COC1=CC2=C(CC(N(C=C2)CCCN(CCC2=CC=C(C=C2)OC)C)=O)C=C1OC | InChI=1S/C25H32N2O4.ClH/c1-26(14-10-19-6-8-22(29-2)9-7-19)12-5-13-27-15-11-20-16-23(30-3)24(31-4)17-21(20)18-25(27)28;/h6-9,11,15-17H,5,10,12-14,18H2,1-4H3;1H
